US08541428B2
2-Iodo-3-phenylquinoxaline
To the 2-chloro-3-phenylquinoxaline (4.15 mmol) in dry THF (10 ml) was added a solution of 2 M HCl in ether (4 ml). After 5 minutes the solvents were removed by vacuum. Dry sodium iodide (41.5 mmol) and acetonitrile (30 ml) were added to the hydrochloride salt and refluxed for 5 hrs. The reaction was quenched by the addition of an aqueous solution of 10% K2CO3 and 5% NaHSO3 (15 ml). After extraction with dichloromethane, and drying the combined organic layers over MgSO4 the solvents were evaporated under reduced pressure. The resulting crude product was purified by silica gel chromatography with (1:10) EtOAc:hexane, to give 95% yield of the desired product.

reactant | 2-chloro-3-phenylquinoxaline | 4.15 mmol | ClC1=NC2=CC=CC=C2N=C1C1=CC=CC=C1 | C14H9ClN2
reactant | HCl | 2 M | Cl | ClH
reactant | sodium iodide | 41.5 mmol | [I-].[Na+]
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ether | 4 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-Iodo-3-phenylquinoxaline | 95% yield | IC1=NC2=CC=CC=C2N=C1C1=CC=CC=C1 | C14H9IN2
